US07202062B2
(2) Production of Pravastatin Using YS-44442 and YS-45494
1 ml of a spore suspension of YS-44442 (or YS-45494) stored in GL(10_glycerol—5_lactose) at −80_was opened in laminar flower and added into a 300 ml shake flask containing 20 ml of the seed medium (for every liter: glucose 10 g, peptone 2 g, soy protein 4 g and KH2PO4 1 g, pH 7.0÷0.2). The seed culture was incubated at 27_ for 24 to 48 hrs in a rotary shaker at 200 to 220 rpm (growth phase). Afterward, 1.5 to 2 ml of the seed culture was incubated into a 300 ml shake flask containing 20 ml of the fermentation medium (per liter: glucose 15 g, peptone 5 g, corn steep powder (C.S.P.) 5 g and soybean meal 4 g, KH2PO4 1 g, pH 7.0±0.2). The shake flask was incubated at 27±0.5_ for 18 to 24 hrs in a rotary shaker at 200 rpm (growth phase). The fermentation broth was added with compactin prepared as above into the fermentation broth at a final concentration of 1500 to 2000 mg/L and the incubation was continued for 16 to 24 hrs.

reactant | glucose | 10 g | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | KH2PO4 | 1 g, pH 7.0 | OP(=O)(O)[O-].[K+]
reactant | glucose | 15 g | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | KH2PO4 | 1 g, pH 7.0±0.2 | OP(=O)(O)[O-].[K+]
reactant | compactin | CC[C@H](C)C(=O)O[C@H]1CCC=C2[C@H]1[C@H]([C@H](C=C2)C)CC[C@H](C[C@H](CC(=O)O)O)O | C23H36O6
product | Pravastatin | CC[C@H](C)C(=O)O[C@H]1C[C@@H](C=C2[C@H]1[C@H]([C@H](C=C2)C)CC[C@H](C[C@H](CC(=O)O)O)O)O | C23H36O7
